US05412097
To a stirred solution of 5,7-dimethyl-2-ethyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine (122 mg, 0.29 mmol) in THF (1.5 mL) at 0° C. was added sodium hexamethyldisilazine (0.35 mL of a 1M solution in THF). After 10 min, a solution of BrCN (37 mg, 0.35 mmol) in THF (1 ml) was added dropwise via a double tipped needle. The reaction was warmed to r.t. and stirred for 3 h at which time 0.3 mL of HOAc was added. Extraction with CH2Cl2 (5×30 mL) from H2O (30 mL), evaporation of the organic extracts and purification (SiO2, 80:19:1 CH2Cl2 /CH3OH/NH4OH) gave 5,7-dimethyl-2-ethyl-3-[2'-(N-cyanoaminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine as a glass.

reactant | 5,7-dimethyl-2-ethyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine | 0.29 mmol, 122 mg | CC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N)C | C23H24N4O2S
reactant | sodium hexamethyldisilazine | CC1(C(C(N=[SiH][SiH2]1)(C)C)(C)C)C.[Na]
reactant | BrCN | 0.35 mmol, 37 mg | BrC#N | CBrN
reactant | HOAc | 0.3 mL | CC(=O)O | C2H4O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5,7-dimethyl-2-ethyl-3-[2'-(N-cyanoaminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine | CC1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)NC#N)C | C24H23N5O2S
